US05506267
(6,7-bis(palmi toyloxy)-4-thiaheptanoyl)glycylglycylglycine
(6,7-bis(palmitoyloxy)-4-thiaheptanoyl)glycylglycylglycine t-butyl ester as obtained in Example 5 (110 mg) was mixed with trifiuoroacetic acid (5 ml), followed by stirring at room temperature for 1 hour. The mixture was concentrated to yield the title compound (81 mg, yield 86%) as a colorless crystal.

reactant | (6,7-bis(palmitoyloxy)-4-thiaheptanoyl)glycylglycylglycine t-butyl ester | C(C)(C)(C)OC(CNC(CNC(CNC(CCSCC(COC(CCCCCCCCCCCCCCC)=O)OC(CCCCCCCCCCCCCCC)=O)=O)=O)=O)=O | C48H89N3O9S
reactant | trifiuoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (6,7-bis(palmi toyloxy)-4-thiaheptanoyl)glycylglycylglycine | 81 mg, yield 86% | C(CCCCCCCCCCCCCCC)(=O)OC(CSCCC(=O)NCC(=O)NCC(=O)NCC(=O)O)COC(CCCCCCCCCCCCCCC)=O | C44H81N3O9S
